US05023255
(a) N-(4-Phenoxyphenyl)glycine, methyl ester (Intermediate 75)
A mixture of 4-phenoxyaniline (30 g, 0.162 mol), methyl chloroacetate (21.3 ml, 0.243 mol) and sodium bicarbonate (27.2 g, 0.324 mol) was heated at 100°-120° C. with magnetic stirring for 24 hours. The resulting semi-solid was partitioned between dichloromethane (300 ml) and water (300 ml) then separated. The aqueous layer was extracted with dichloromethane (200 ml) and the organic extracts were combined. The extracts were washed with 2N hydrochloric acid (2×200 ml) and water (2×200 ml), dried (MgSO4) and evaporated to give a brown oil. This was heated with hexane (300 ml) to give an oil suspension. The hexane was decanted off and residual oil crystallised on cooling. The solid was triturated with ether/hexane 1:1 and filtered to give a brown solid (13.6 g, 33%) m.p. 80°-82° C. A second crop of a pale yellow solid was also given (10.5 g, 25%).

reactant | 4-phenoxyaniline | 0.162 mol, 30 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | methyl chloroacetate | 0.243 mol, 21.3 ml | ClCC(=O)OC | C3H5ClO2
reactant | sodium bicarbonate | 0.324 mol, 27.2 g | C([O-])(O)=O.[Na+]
solvent | hexane | 300 ml | CCCCCC | C6H14
product | N-(4-Phenoxyphenyl)glycine, methyl ester | 13.6 g, 33% | O(C1=CC=CC=C1)C1=CC=C(C=C1)NCC(=O)OC | C15H15NO3
